US06100272
1-(4-Bromo-3-methylphenyl)-3,3-dimethylpyrrolidin-2-one
The title compound was prepared from 4-bromo-3-methylaniline and α,α-dimethyl-γ-butyrolactone following a similar procedure to Description 20, as a pink solid (53%).

reactant | 4-bromo-3-methylaniline | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | α,α-dimethyl-γ-butyrolactone | CC1(C(=O)OCC1)C | C6H10O2
product | 1-(4-Bromo-3-methylphenyl)-3,3-dimethylpyrrolidin-2-one | BrC1=C(C=C(C=C1)N1C(C(CC1)(C)C)=O)C | C13H16BrNO
